US07759518B2
Step B: N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-1-(2,3-dihydroxypropyl)cyclopropane-1-sulfonamide
1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methoxyphenyl)cyclopropane-1-sulfonamide (97 mg, 0.18 mmol) and 4-methylmorpholine N-oxide (21 mg, 0.18 mmol) were dissolved in THF (8 mL). Osmium tetroxide was added at room temperature (0.018 mmol, 0.13 mL, 4% in H2O) and the reaction mixture was stirred at room temperature for 16 hours. EtOAc was added, the organic phase was washed with water, dried (MgSO4) and concentrated under reduced pressure. The residue was purified over silica gel chromatography (eluants: EtOAc/MeOH) to obtain the titled product (0.80 g, 78%). 1H NMR (CDCl3, 300 MHz): δ 7.38 (dd, J=1.7 & 10.3 Hz, 1H), 7.26 (m, 1H), 7.14 (s, 1H), 6.87 (s, 1H), 6.53 (dd, J=6.8 & 11.4 Hz, 1H), 6.43 (m, 1H), 4.06 (m, 1H), 3.89 (s, 3H), 3.63 (dd, J=3.7 & 1.11 Hz, 1H), 3.49 (dd, J=6.4 & 11.1 Hz, 1H), 2.3 (dd, J=9.7 & 16.1 Hz, 1H), 1.77 (dd, J=1.9 & 16.0 Hz, 1H), 1.37 (m, 1H), 1.25 (m, 1H), 1.21 (m, 2H), 0.86 (m, 2H); m/z=571 [M−1]−.

reactant | 1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methoxyphenyl)cyclopropane-1-sulfonamide | 0.18 mmol, 97 mg | C(C=C)C1(CC1)S(=O)(=O)NC1=C(C(=C(C=C1OC)F)F)NC1=C(C=C(C=C1)I)F | C19H18F3IN2O3S
reactant | 4-methylmorpholine N-oxide | 0.18 mmol, 21 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
catalyst | Osmium tetroxide | [Os](=O)(=O)(=O)=O
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-1-(2,3-dihydroxypropyl)cyclopropane-1-sulfonamide | 0.80 g, 78% | FC=1C(=C(C=CC1F)NS(=O)(=O)C1(CC1)CC(CO)O)NC1=C(C=C(C=C1)I)F | C18H18F3IN2O4S
